US08877801B2
To a microwave vial, (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylamide (75 mg, 0.174 mmol) and Bu2SnO (4.33 mg, 0.02 mmol) were suspended in DME (3 mL). The vial was charged with TMSN3 (0.023 mL, 0.17 mmol) and the reaction was heated for 60 min at 180° C. under microwave irradiation. The reaction mixture was filtered to remove solids and concentrated onto silica gel. The crude material was purified by column chromatography (SiO2, 1-20% MeOH/DCM) to afford (E)-5-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)styryl)-1H-tetrazole (66 mg, 0.15 mmol, 83% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.45-7.61 (m, 5H), 7.32 (d, J=2.02 Hz, 1H), 7.15 (d, J=9.09 Hz, 1H), 6.98 (d, J=16.67 Hz, 1H), 6.86-6.93 (m, 2H), 6.78-6.86 (m, 3H), 3.78 (s, 3H), 3.69 (s, 3H). LC/MS (m/z, MH+): 457.4.

reactant | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylamide | 0.174 mmol, 75 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)N)C2=CC=C(C=C2)OC)C1 | C25H21NO4S
reactant | TMSN3 | 0.17 mmol, 0.023 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DME | 3 mL | COCCOC | C4H10O2
product | (E)-5-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)styryl)-1H-tetrazole | 0.15 mmol, 66 mg, 83% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(/C=C/C3=NN=NN3)C=C2)C2=CC=C(C=C2)OC)C1 | C25H20N4O3S
